US07973181B2
Stage 6: 6-Hydroxymethyl-benzo[b]thiophene-2-carboxylic acid
6-Hydroxymethyl-benzo[b]thiophene-2-carboxylic acid ethyl ester (2.4 g, 9.6 mmol, 1 eq) was dissolved in THF (10 mL, 4 vol) and water added (10 mL) along with LiOH (0.69 g, 28.8 mmol). The reaction mixture was stirred at 50° C. for 3 h and then concentrated to dryness and taken onto the next stage without purification.

reactant | 6-Hydroxymethyl-benzo[b]thiophene-2-carboxylic acid ethyl ester | 9.6 mmol, 2.4 g, 1 eq | C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)CO | C12H12O3S
reactant | water | O | H2O
reactant | LiOH | 28.8 mmol, 0.69 g | [Li+].[OH-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-Hydroxymethyl-benzo[b]thiophene-2-carboxylic acid | OCC=1C=CC2=C(SC(=C2)C(=O)O)C1 | C10H8O3S
